US05874472
H. Preparation of N-(Tert-butoxycarbonyl)-3-(5-thioureido-2- thienyl)-DL-alanine
To a stirred solution of Ethyl N-(tert-butoxycarbonyl)-3-(5-(3-benzoylthioureido)-2-thienyl)-DL-alaninate (4.90 g, 10.2 mmol) in tetrahydrofuran (100 ml) was added 2N aqueous sodium hydroxide (12 ml, 24.0 mmol). The mixture was heated to reflux for 2.5 hours and cooled to room temperature. The mixture was placed in an ice bath and carefully neutralized to approximately pH7 with concentrated hydrochloric acid. The solvent was removed at reduced pressure to a volume of approximately 20-25 ml of a dark aqueous solution, and was extracted four times with ethyl acetate. The aqueous layer was adjusted to approximately pH4 with concentrated hydrochloric acid and concentrated at reduced pressure to give a dark red gummy solid. This material was taken up into ethyl acetate. All of the combined organic layers were dried over magnesium sulphate and the solvent was removed at reduced pressure to give a dark red gummy oil. This material was purified by column chromatography on silica gel eluting with 7.5:92.5:0.5 methanol:dichloromethane: acetic acid. The fractions containing the desired product were combined and concentrated at reduced pressure. The residue was redissolved in a small amount of methanol, diluted with toluene and reconcentrated at reduced pressure to azeotropically remove any remaining acetic acid. This process was repeated three times. N-(Tert-butoxycarbonyl)-3-(5-thioureido-2-thienyl)-DL-alanine. (2.33 g, 66%) was obtained as a yellow solid.

reactant | Ethyl N-(tert-butoxycarbonyl)-3-(5-(3-benzoylthioureido)-2-thienyl)-DL-alaninate | 10.2 mmol, 4.90 g | C(C)(C)(C)OC(=O)NC(CC=1SC(=CC1)NC(=S)NC(C1=CC=CC=C1)=O)C(=O)OCC | C22H27N3O5S2
reactant | sodium hydroxide | 24.0 mmol, 2N, 12 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(Tert-butoxycarbonyl)-3-(5-thioureido-2- thienyl)-DL-alanine | C(C)(C)(C)OC(=O)NC(CC=1SC(=CC1)NC(=S)N)C(=O)O | C13H19N3O4S2
